US05998605
2-Acetamido-5,6-dichloro-1-(beta-L-ribofuranosyl)-1H-benzimidazole
A solution of 2-acetamido-5,6-dichloro-1-(2,3,5-tri-O-acetyl-beta-L-ribofuranosyl)-1H-benzimidazole (0.35 g, 0.75 mmol) in methanol (8 mL) and ethanol (8 mL) was combined with a solution of sodium carbonate (0.12 g, 1.1 mmol) in water (2 mL). The solution was stirred at rt for 24 h, then the methanol and ethanol were removed on the rotoevaporator. The solution was then extracted between ethyl acetate (2×150 mL) and saturated NaCl (20 mL). The organics were concentrated and purified by multiple cyclings on a chromatotron, fitted with a 2 mm rotor, using 1:10 methanol:dichloromethane to give a white solid (0.067 g, 0. 18 mmol, 23%); This material was identified by 1H NMR, MS and HPLC, it contained about 7% of 2-amino-5,6-dichloro-beta-L-ribofuranosyl-1H-benzimidazole by 1H NMR. HPLC showed two small (~5%) impurities.

reactant | 2-acetamido-5,6-dichloro-1-(2,3,5-tri-O-acetyl-beta-L-ribofuranosyl)-1H-benzimidazole | 0.75 mmol, 0.35 g | C(C)(=O)NC1=NC2=C(N1[C@@H]1[C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@@H](O1)COC(C)=O)C=C(C(=C2)Cl)Cl | C20H21Cl2N3O8
reactant | sodium carbonate | 1.1 mmol, 0.12 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-amino-5,6-dichloro-beta-L-ribofuranosyl-1H-benzimidazole | N[C@]1([C@H](O[C@H]([C@@H]1O)C(O)Cl)N1C=NC2=C1C=C(C=C2)Cl)O | C12H13Cl2N3O4
solvent | methanol | 8 mL | CO | CH4O
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
product | 2-Acetamido-5,6-dichloro-1-(beta-L-ribofuranosyl)-1H-benzimidazole | C(C)(=O)NC1=NC2=C(N1[C@@H]1[C@@H](O)[C@@H](O)[C@@H](O1)CO)C=C(C(=C2)Cl)Cl | C14H15Cl2N3O5
